US05441984
N-(4-methylthiophenyl)urea
A solution of 30 g (170 mmol) of 4-(methylmercapto)aniline dissolved in 83 ml of acetic acid and 165 ml of water was heated to 40° C. Once warmed to 40° C. a solution of sodium cyanate (22.2 g; 340 mmol) in 150 ml of water was slowly added. The resulting suspension was stirred for 15 minutes and then allowed to sit for 2 hours. Filtration of the suspension provided 29.98 g of title compound. m.p. 155°-159° C.

reactant | 4-(methylmercapto)aniline | 170 mmol, 30 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | sodium cyanate | 340 mmol, 22.2 g | [O-]C#N.[Na+]
solvent | acetic acid | 83 ml | C(C)(=O)O | C2H4O2
solvent | water | 150 ml | O | H2O
solvent | water | 165 ml | O | H2O
product | N-(4-methylthiophenyl)urea | 29.98 g | CSC1=CC=C(C=C1)NC(=O)N | C8H10N2OS
